US05990101
3-(N,N-dimethylamino)sulfonylaminomethylimidazo[5,1-b]thiazole
A 210 mg potion of 3-aminomethylimidazo[5,1-b]thiazole was dissolved in 4 ml of dichloromethane, and 202 mg of 4-dimethylaminopyridine and 0.179 ml of N,N-dimethylsulfamoyl chloride were further added, followed by stirring for 2.5 hours. Then, to the reaction solution, an aqueous semi-saturated sodium hydrogencarbonate solution were added, and extraction was then carried out three times with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the solvent was then evaporated under reduced pressure. Afterward, the resulting residue was purified by a silica gel column chromatograph to obtain 177 mg of the title compound.

reactant | 3-aminomethylimidazo[5,1-b]thiazole | NCC=1N2C(SC1)=CN=C2 | C6H7N3S
reactant | N,N-dimethylsulfamoyl chloride | 0.179 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 202 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(N,N-dimethylamino)sulfonylaminomethylimidazo[5,1-b]thiazole | 177 mg | CN(C)S(=O)(=O)NCC=1N2C(SC1)=CN=C2 | C8H12N4O2S2
